US07342118B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid {1-[1-(3,3-dimethyl-butyl)-piperidin-4-yl]-1H-imidazol-4-yl}-amide
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid (1-piperidin-4-yl-1H-imidazol-4-yl)-amide (100 mg, 2.4 mmol) was charged with 1 mL of THF, 1 mL of Dichloroethane, 0.06 mL of triethyamine, 0.03 mL of 3,3-dimethylbutyraldehyde, and 63 mg of sodiumtriacetoxyborohydride. The reaction was stirred overnight, quenched with sodiumbicarbonate, extracted with methylene chloride, and the resultant oil purified by silica gel chromatography to afford the title compound: C13 NMR (100 MHz, CDCl3) 13.9, 18.8, 29.7, 29.9, 33.3, 36.0, 40.9, 43.1, 52.9, 53.1, 54.5, 55.9, 102.8, 103.1, 105.9, 112.3, 112.4, 112.5, 112.6, 131.5, 137.6, 169.2; MS 504.3 m/z (M+1).

reactant | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid (1-piperidin-4-yl-1H-imidazol-4-yl)-amide | 2.4 mmol, 100 mg | N1CCC(CC1)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C21H27F2N5O2
reactant | Dichloroethane | 1 mL | ClC(C)Cl | C2H4Cl2
reactant | 3,3-dimethylbutyraldehyde | 0.03 mL | CC(CC=O)(C)C | C6H12O
reactant | sodiumtriacetoxyborohydride | 63 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | triethyamine | 0.06 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid {1-[1-(3,3-dimethyl-butyl)-piperidin-4-yl]-1H-imidazol-4-yl}-amide | CC(CCN1CCC(CC1)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O)(C)C | C27H39F2N5O2
